US07238808B2
5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.5) (73 mg, 0.25 mmol) and 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (81 mg, 0.25 mmol) (example B.4) according to general procedure II. Obtained as a yellow solid (68 mg, 50%). MS (ISP) 538.0 [(M+H)+]; mp 204–206° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 73 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#C | C17H12ClN3
reactant | 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 0.25 mmol, 81 mg | OCC(C)(CO)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O4S
product | 5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | OCC(C)(CO)NS(=O)(=O)C=1C=NC=C(C1)C#CC=1C=NN2C1N=C(C=C2C2CC2)C2=CC=C(C=C2)Cl | C26H24ClN5O4S
